US07790770B2
To a 1:1 mixture of ether (1.85 mL) and 30% ammonium hydroxide (1.85 mL) was added drop-wise 2,2-bis(trifluoromethyl)oxirane (1.00 g, 5.5 mmol). The reaction mixture was stirred for 2 h at rt, then diluted with ether and H2O. The aqueous layer was extracted twice with ether and the combined ether layer was dried over MgS O4, filtered and concentrated to give 2-(aminomethyl)-1,1,1,3,3,3-hexafluoropropan-2-ol as a semi solid (0.87 g, 81% yield). 1H NMR (400 MHz, CDCl3) ppm 3.14 (s, 2H), 3.25 (s, 1H).

reactant | ammonium hydroxide | 1.85 mL | [OH-].[NH4+]
reactant | 2,2-bis(trifluoromethyl)oxirane | 5.5 mmol, 1.00 g | FC(C1(OC1)C(F)(F)F)(F)F | C4H2F6O
solvent | ether | CCOCC | C4H10O
solvent | H2O | O | H2O
solvent | ether | 1.85 mL | CCOCC | C4H10O
product | 2-(aminomethyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | NCC(C(F)(F)F)(C(F)(F)F)O | C4H5F6NO
